US06391874B1
(1-Benzyl-1H-indazol-5-yl)-[7-(furan-2-yl)-quinazolin-4-yl]-amine hydrochloride
Prepared according to Procedure B from (1-benzyl-1H-indazol-5-yl)-(7-iodoquinazolin-4-yl)-amine hydrochloride and (furan-2-yl)-tri-n-butylstannane; δH [2H6] DMSO 9.94(1H,bs), 8.61(1H,d), 8.55(1H,s), 8.21(2H,d), 8.00(3H,m), 7.73(2H,s), 7.30(6H,s), 6.74(1H,s), 5.72(2H,s); m/z (M+1+) 418.

reactant | (1-benzyl-1H-indazol-5-yl)-(7-iodoquinazolin-4-yl)-amine hydrochloride | Cl.C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC(=CC=C12)I
reactant | (furan-2-yl)-tri-n-butylstannane | O1C(=CC=C1)[Sn](CCCC)(CCCC)CCCC
product | (1-Benzyl-1H-indazol-5-yl)-[7-(furan-2-yl)-quinazolin-4-yl]-amine hydrochloride | Cl.C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC(=CC=C12)C=1OC=CC1 | InChI=1S/C26H19N5O.ClH/c1-2-5-18(6-3-1)16-31-24-11-9-21(13-20(24)15-29-31)30-26-22-10-8-19(25-7-4-12-32-25)14-23(22)27-17-28-26;/h1-15,17H,16H2,(H,27,28,30);1H
